US05597823
2,4-Dinitro-benzamide
2,4-Dinitrobenzoic acid (8.17 g, 38.5 mmol) was treated with oxalyl chloride (3.90 mL, 44.7 mmol). The resulting acid chloride was treated with saturated NH4OH solution (200 mL) to yield the title compound (7.25 g, 89%). m.p. 202°-204° C. 1H NMR (300 MHz, DMSO) δ8.75 (d, 1H), 8.58 (dd, 1H), 8.48 (br s, 1H), 7.99 (br s, 1H), 7.91 (d, 1H), 5.50-6.20 (br s, 2H). MS (DCI/NH3) m/e 229 (M+NH4)+.

reactant | 2,4-Dinitrobenzoic acid | 38.5 mmol, 8.17 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | oxalyl chloride | 44.7 mmol, 3.90 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 200 mL | [NH4+].[OH-]
product | 2,4-Dinitro-benzamide | 7.25 g, 89% | [N+](=O)([O-])C1=C(C(=O)N)C=CC(=C1)[N+](=O)[O-] | C7H5N3O5
